US07528147B2
A solution of 2-[6-(3-chloropropoxy)-5-methoxy-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.415 g; 792 μmol) in methyl ethyl ketone (10 ml) is placed in a 50 ml single-necked flask and sodium iodide (0.178 g; 1.18 mmol) is then added. The reaction mixture is refluxed for 16 hours. Analysis by thin layer chromatography (50/50 cyclohexane/ethyl acetate) shows that the starting compound is still present. Additional sodium iodide (0.178 g; 1.18 mmol) is introduced and the reflux is maintained for 3 hours. After returning to 20° C., the precipitate is dissolved in dichloromethane (200 ml) and then washing with water (50 ml) and drying over magnesium sulfate are carried out. After evaporation, the residue is taken up in ethyl acetate (20 ml); the insoluble material is removed and the filtrate is then evaporated under reduced pressure. 2-[6-(3-Iodopropoxy)-5-methoxy-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.367 g; 75%) is isolated, the characteristics of which are as follows:

reactant | 2-[6-(3-chloropropoxy)-5-methoxy-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 792 μmol, 0.415 g | ClCCCOC1=C(C=C2C(=CN(C2=C1)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C)OC | C27H26ClN3O4S
reactant | sodium iodide | 1.18 mmol, 0.178 g | [I-].[Na+]
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
reactant | sodium iodide | 1.18 mmol, 0.178 g | [I-].[Na+]
solvent | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-[6-(3-Iodopropoxy)-5-methoxy-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.367 g, 75% | ICCCOC1=C(C=C2C(=CN(C2=C1)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C)OC | C27H26IN3O4S
